US07396846B2
N-(1-Ethynylcyclohexyl)-4-methanesulfonyl-phenylmethane sulfonamide (19.6 g, 55 mmol) was suspended in ethylene glycol (250 ml). 10 ml Water, 2 g HgO and 2 ml conc. sulfuric acid were added and the mixture was heated at 175° C. for 3 hours, then poured warm into 1 l crushed ice, decanted from mercury salts, stirred and the precipitate was filtered off, washed with water and dried under vacuum at 70° C. to yield N-(1-acetylcyclohexyl)-4-methanesulfonyl-phenylmethanesulfonamide, shown below, as a solid (14.4 g, 70%). 1H-NMR (CDCl3) δ 7.95 (d, 2H), 7.68 (d, 2 H), 4.68 (s, 1 H), 4.42 (s, 2 H), 3.06 (s, 3 H), 2.29 (s, 3 H), 2.00-1.25 (m, 10 H); MS (IS): 372.1 [M−H]−

reactant | N-(1-Ethynylcyclohexyl)-4-methanesulfonyl-phenylmethane sulfonamide | 55 mmol, 19.6 g | C(#C)C1(CCCCC1)NS(=O)(=O)CC1=CC=C(C=C1)S(=O)(=O)C | C16H21NO4S2
reactant | Water | 10 ml | O | H2O
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethylene glycol | 250 ml | C(CO)O | C2H6O2
product | N-(1-acetylcyclohexyl)-4-methanesulfonyl-phenylmethanesulfonamide | C(C)(=O)C1(CCCCC1)NS(=O)(=O)CC1=CC=C(C=C1)S(=O)(=O)C | C16H23NO5S2
